US05559113
N-(4-(1H-Imidazol-4-yl)butyl)-2-cyclopentylacetamide
The preparation is carried out as in Example 1 with 2-cyclopentylacetic acid and 4-(1H-imidazol-4-yl)butanamine. The title compound is extracted from water with diethyl ether and recrystallized in the hydrogenmaleate form from ethanol/diethyl ether.

reactant | 2-cyclopentylacetic acid | C1(CCCC1)CC(=O)O | C7H12O2
reactant | 4-(1H-imidazol-4-yl)butanamine | N1C=NC(=C1)CCCCN | C7H13N3
product | N-(4-(1H-Imidazol-4-yl)butyl)-2-cyclopentylacetamide | N1C=NC(=C1)CCCCNC(CC1CCCC1)=O | C14H23N3O
